US07795267B2
Phenyl 1,1-bis(phenylmethyl)-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
To a solution of 1,1-bis(phenylmethyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one (0.16 g, 0.50 mmol) in tetrahydrofuran (10 mL) were sequentially added triethylamine (0.14 mL) and phenyl chlorocarbonate (0.12 g, 0.75 mmol), and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=10:1 to ethyl acetate). The fractions were concentrated, and to the obtained crystals was added diisopropyl ether, collected by filtration and washed with diisopropyl ether to obtain the title compound (0.19 g, yield 85%).

reactant | 1,1-bis(phenylmethyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one | 0.50 mmol, 0.16 g | C1(=CC=CC=C1)CC1(OC(N2C1CNCC2)=O)CC2=CC=CC=C2 | C20H22N2O2
reactant | triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 0.75 mmol, 0.12 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Phenyl 1,1-bis(phenylmethyl)-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.19 g, yield 85% | C1(=CC=CC=C1)CC1(OC(N2C1CN(CC2)C(=O)OC2=CC=CC=C2)=O)CC2=CC=CC=C2 | C27H26N2O4
